US05608069
A mixture of potassium cyanide (2.0 g, 31 mmol), 2-fluorobenzaldehyde (26 g, 21 mmol), ethanol (30 ml) and water (30 ml) was heated at reflux for 1.5 h and then kept at -15° C. for 2 h. The precipitated compound was collected to give 20 g of 2-hydroxy-1,2-bis(2-fluorophenyl)ethanone.

reactant | potassium cyanide | 31 mmol, 2.0 g | [C-]#N.[K+]
reactant | 2-fluorobenzaldehyde | 21 mmol, 26 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-hydroxy-1,2-bis(2-fluorophenyl)ethanone | 20 g | OC(C(=O)C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C14H10F2O2
